US06201013B1
[1,2,3]-Thiadiazole-4-Carboxylic Acid {4-[3(3,5-Bis-Trifluoromethylphenyl)-Thioureido]-phenyl}amide
To a solution of [1,2,3]-thiadiazole-4-carboxylic acid (4-amino-phenyl) amide (2.0 g) in acetonitrile (50 mL) is added 1-isothiocyanato-3,5-bis-trifluoromethyl-benzene (2.5 g) in acetonitrile (50 mL) dropwise but rapidly and the reaction is stirred at room temperature. After ninety minutes, the solvent is removed under reduced pressure and the resulting brown solid is recrystallized from ethyl acetate/hexanes to give the pure product. [M+H]492.

reactant | [1,2,3]-thiadiazole-4-carboxylic acid (4-amino-phenyl) amide | 2.0 g | NC1=CC=C(C=C1)NC(=O)C=1N=NSC1 | C9H8N4OS
reactant | 1-isothiocyanato-3,5-bis-trifluoromethyl-benzene | 2.5 g | N(=C=S)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3F6NS
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | [1,2,3]-Thiadiazole-4-Carboxylic Acid {4-[3(3,5-Bis-Trifluoromethylphenyl)-Thioureido]-phenyl}amide | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(NC1=CC=C(C=C1)NC(=O)C=1N=NSC1)=S)(F)F | C18H11F6N5OS2
